US05434148
1,2-di(t-butoxycarbonyl)-1-(1-phenyl-3,4-dihydro-quinolin-2 (1H)-on-3-yl)-hydrazine
To a solution of 0.45 g (0.00448 mole) of diisopropylamine dissolved in 20 ml of tetrahydrofuran was added dropwise 2.6 ml (0.00448 mole) of n-butyl lithium (a 1.6M hexane solution) at 0° C., and the mixture was stirred for 20 minutes. After the mixture was cooled to -78° C., to the mixture was added dropwise a solution of 1.00 g (0.00448 mole) of 1-phenyl-3,4-dihydroquinolin-2 (1H)-one dissolved in 10 ml of tetrahydrofuran, and the mixture was stirred at the same temperature for 30 minutes. Next, to the mixture was added dropwise a solution of 2.06 g of di-t-butyl azodicarboxylate dissolved in 10 ml of tetrahydrofuran, and the mixture was stirred at -78° C. for one hour. After completion of the reaction, the reaction mixture was treated with an ammonium chloride aqueous solution, extracted with chloroform and dried over anhydrous sodium sulfate. Chloroform was removed under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:ethyl acetate:hexane (1:5 v/v)) to obtain 1.41 g of the title compound as a colorless caramel-like product.

reactant | diisopropylamine | 0.00448 mole, 0.45 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.00448 mole, 2.6 ml | C(CCC)[Li]
reactant | 1-phenyl-3,4-dihydroquinolin-2 (1H)-one | 0.00448 mole, 1.00 g | C1(=CC=CC=C1)N1C(CCC2=CC=CC=C12)=O | C15H13NO
reactant | di-t-butyl azodicarboxylate | 2.06 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | 1,2-di(t-butoxycarbonyl)-1-(1-phenyl-3,4-dihydro-quinolin-2 (1H)-on-3-yl)-hydrazine | 1.41 g | C(C)(C)(C)OC(=O)N(NC(=O)OC(C)(C)C)C1C(N(C2=CC=CC=C2C1)C1=CC=CC=C1)=O | C25H31N3O5
